US08217032B2
Methanesulfonic acid 7,9-difluoro-5-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-5H-6-thia-chrysen-2-yl ester
Dissolve methanesulfonic acid 6-(3,5-difluoro-2-methylsulfanyl-phenyl)-5-{hydroxy-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-methyl}-naphthalen-2-yl ester (7.4 g, 12 mmol) in dry methylene chloride (200 mL) and purge with nitrogen. Add triethylamine (8.3 mL, 60 mmol) followed by methanesulfonyl chloride (4.6 mL, 60 mmol). After 30 minutes, pour reaction into water and extract with methylene chloride. Wash organic layer with water, dry over sodium sulfate, filter and concentrate. Purify over silica gel, eluting with 0 to 3% methanol in methylene chloride, to yield 5.2 g (74%) of the title compound. LCMS Rt (0.01% heptafluorobutyric acid:1.0% isopropylalcohol:water is mobile phase A and 0.01% heptafluorobutyric acid:1.0% isopropylalcohol:acetonitrile is mobile phase B; gradient method 25 to 95% B, Purity@254 nm)=3.34 min (100%); mass spectrum (ion spray): m/z=582.2 (M+H).

reactant | methanesulfonic acid 6-(3,5-difluoro-2-methylsulfanyl-phenyl)-5-{hydroxy-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-methyl}-naphthalen-2-yl ester | 12 mmol, 7.4 g | FC=1C(=C(C=C(C1)F)C=1C(=C2C=CC(=CC2=CC1)OS(=O)(=O)C)C(C1=CC=C(C=C1)OCCN1CCCCC1)O)SC | C32H33F2NO5S2
reactant | triethylamine | 60 mmol, 8.3 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 60 mmol, 4.6 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | water | O | H2O
solvent | methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
product | Methanesulfonic acid 7,9-difluoro-5-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-5H-6-thia-chrysen-2-yl ester | 5.2 g, 74% | FC1=C2SC(C3=C4C=CC(=CC4=CC=C3C2=CC(=C1)F)OS(=O)(=O)C)C1=CC=C(C=C1)OCCN1CCCCC1 | C31H29F2NO4S2
